US08138175B2
Alternative Preparation of 2-(3,4-dichloro-phenylamino)-propionic acid
A mixture of 1-bromo-3,4-dichlorobenzene (5.10 g, 22.1 mmol), L-alanine (2.96 g, 33.2 mmol) copper(I) iodide (421 mg, 2.21 mmol), tri-potassium phosphate n-hydrate (15.3 g, 66.4 mmol), 2-(dimethylamino)ethanol (5.92 g, 66.4 mmol), and water (22 mL) was heated at 90° C. for 40 h, then poured onto ice water. The pH was set to 6 with 25% aq. HCl solution, and the mixture was extracted with EtOAc. The aqueous phase was acidified to pH 4.5 and extracted with EtOAc. The combined organic layers were dried (MgSO4), filtered, and evaporated. Chromatography (SiO2; EtOAc) afforded the title compound (2.71 g, 53%) as a 60:40 mixture of the (S) and (R) stereoisomers. Light brown solid, MS: 232.1 (M−H)−.

reactant | 1-bromo-3,4-dichlorobenzene | 22.1 mmol, 5.10 g | BrC1=CC(=C(C=C1)Cl)Cl | C6H3BrCl2
reactant | L-alanine | 33.2 mmol, 2.96 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | 2-(dimethylamino)ethanol | 66.4 mmol, 5.92 g | CN(CCO)C | C4H11NO
reactant | HCl | Cl | ClH
solvent | water | 22 mL | O | H2O
product | 2-(3,4-dichloro-phenylamino)-propionic acid | 2.71 g, 53% | ClC=1C=C(C=CC1Cl)NC(C(=O)O)C | C9H9Cl2NO2
